US09212182B2
A RBF was charged with 6-(benzylthio)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one (1.00 g, 1.992 mmol), DCM (18.9 ml), acetic acid (0.47 ml), and water (0.47 ml) to give clear, orange solution. The flask was cooled in an ice-water bath for 10 min, then 1,3-dichloro-5,5-dimethylhydantoin (0.654 ml, 4.98 mmol) was added in one portion. After 30 min, 2,3,4,5,6-pentafluorophenol (0.417 ml, 3.98 mmol) and triethylamine (0.694 ml, 4.98 mmol) (dropwise) were added in sequence. After 2 hours, the mixture was diluted with water, then extracted with DCM (2×). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (40-g Redi-Sep Gold column, 25-g silica gel loading column, 0-50% EtOAc/Heptane) to give perfluorophenyl 1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (0.600 g, 0.959 mmol, 48.1% yield) as an off-white solid. m/z (ESI) 626.1 (M+H)+.

reactant | 6-(benzylthio)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one | 1.992 mmol, 1.00 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1OC)C1=CC(=CC=C1)F)Cl)=O | C29H21ClFNO2S
reactant | 1,3-dichloro-5,5-dimethylhydantoin | 4.98 mmol, 0.654 ml | ClN1C(=O)N(C(=O)C1(C)C)Cl | C5H6Cl2N2O2
reactant | 2,3,4,5,6-pentafluorophenol | 3.98 mmol, 0.417 ml | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
reactant | triethylamine | 4.98 mmol, 0.694 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | water | 0.47 ml | O | H2O
solvent | acetic acid | 0.47 ml | C(C)(=O)O | C2H4O2
solvent | DCM | 18.9 ml | C(Cl)Cl | CH2Cl2
product | perfluorophenyl 1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 0.959 mmol, 0.600 g, 48.1% yield | ClC1=C(C=C(C(=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC)C1=CC(=CC=C1)F | C28H14ClF6NO5S
